US07405300B2
2-Chloro-5-methyl-1-phenyl-1H-indole-3-carboxaldehyde is reacted with piperazine as described in Example 2 to give 5-methyl-1-phenyl-2-(piperazin-1-yl)-1H-indole-3-carboxaldehyde as a pale yellow solid (63% yield).

reactant | 2-Chloro-5-methyl-1-phenyl-1H-indole-3-carboxaldehyde | ClC=1N(C2=CC=C(C=C2C1C=O)C)C1=CC=CC=C1 | C16H12ClNO
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 5-methyl-1-phenyl-2-(piperazin-1-yl)-1H-indole-3-carboxaldehyde | 63% yield | CC=1C=C2C(=C(N(C2=CC1)C1=CC=CC=C1)N1CCNCC1)C=O | C20H21N3O
